US05591862
According to the method described for Reference Example 34, (E)-3-[4-(5-methyl-4-phenyl-2-thiazolylmethoxy)phenyl]-2-propen-1-ol was subjected to oxidation reaction with activated manganese dioxide to give (E)-3-[4-(5-methyl-4-phenyl-2-thiazolylmethoxy)phenyl]-2-propen-1-al. Recrystallization from ethyl acetate--hexane gave colorless prisms, m.p.116°-117° C.

reactant | (E)-3-[4-(5-methyl-4-phenyl-2-thiazolylmethoxy)phenyl]-2-propen-1-ol | CC1=C(N=C(S1)COC1=CC=C(C=C1)/C=C/CO)C1=CC=CC=C1 | C20H19NO2S
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E)-3-[4-(5-methyl-4-phenyl-2-thiazolylmethoxy)phenyl]-2-propen-1-al | CC1=C(N=C(S1)COC1=CC=C(C=C1)/C=C/C=O)C1=CC=CC=C1 | C20H17NO2S
